US08647601B2
A three neck 500 mL flask was charged with 20 g (0.23 mole) of piperidine, 53 g (0.47 mole) of 3-methylcyclohexanone and 200 mL of anhydrous cyclohexane. To the resulting solution, 84 g (0.70 mole) of anhydrous magnesium sulfate was added and the mixture was mechanically stirred and heated at reflux (the reaction was monitored by NMR) for 192 hours. The reaction mixture was then filtered through a fritted glass funnel. The filtrate (containing the enamine product, excess 3-methylcyclohexanone and cyclohexane) was transferred to a hydrogenation vessel. To this mixture, 3 g of 10% Pd on activated carbon was added and the vessel affixed to a hydrogenation Parr shaker at 65 psi of hydrogen. The mixture was left on the Parr shaker for 6 hours at room temperature. The mixture was then filtered through a bed of Celite® in a fitted glass filtering funnel. The filtrate was transferred to a round bottom flask and concentrated under reduced pressure on a rotary evaporator. The obtained residue, which contained 1-(3-methylcyclohexyl)piperidine and excess 3-methylcyclohexanone, was treated with 120 mL of 3M aqueous HCl solution. The mixture was stirred in an ice-water bath for 20 minutes. Then, the mixture was transferred to a reparatory funnel and extracted with 200 mL of diethyl ether. The ether layer, containing the excess 3-methylcyclohexanone, was separated from aqueous layer containing the amine in the form of its onium hydrochloride salt. The ether layer was dried over MgSO4, filtered and concentrated under reduced pressure on a rotary evaporator to recover 31 g of the excess 3-methylcyclohexanone. The aqueous layer was treated with 50 wt. % aqueous NaOH solution in an ice bath until a pH of about 11 was reached. This solution was then extracted with 300 mL of diethyl ether. The ether layer was dried over MgSO4, filtered and concentrated under reduced pressure on a rotary evaporator to give 32 g of 1-(3-methylcyclohexyl)piperidine as a yellow oil. The product was confirmed by 1H-NMR and 13C-NMR analysis. Some piperidine was also present in the oil as an impurity.

reactant | piperidine | 0.23 mole, 20 g | N1CCCCC1 | C5H11N
reactant | 3-methylcyclohexanone | 0.47 mole, 53 g | CC1CC(CCC1)=O | C7H12O
reactant | magnesium sulfate | 0.70 mole, 84 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | cyclohexane | 200 mL | C1CCCCC1 | C6H12
product | 1-(3-methylcyclohexyl)piperidine | 32 g | CC1CC(CCC1)N1CCCCC1 | C12H23N
